US08871767B2
6-(2-fluorophenyl)-2-(3-nitro-4-((trimethylsilyl)ethynyl)phenyl)imidazo[1,2-b]pyridazine
To a mixture of 2-(4-bromo-3-nitrophenyl)-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine (0.500 g, 1.21 mmol), ethynyltrimethylsilane (2.42 mmol), PdCl2(PPh3)2(0.0242 mmol) in THF (50 mL) containing triethylamine (6.05 mmol) is added CuI (0.0242 mmol). The mixture is degassed with N2 (5 minutes) then heated at 60° C. for 12 hours. The mixture is filtered, followed by washing with EtOAC, filtrate collected, concentrated under reduced pressure and crude product is purified via chromatography using CH2Cl2 to afford the title compound (0.425 g, 81%) as a yellow solid: Rf 0.56 (CH2Cl2); LCMS (m/z)=431.4 [M+H]+, tR=3.86 min.

reactant | 2-(4-bromo-3-nitrophenyl)-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine | 1.21 mmol, 0.500 g | BrC1=C(C=C(C=C1)C=1N=C2N(N=C(C=C2)C2=C(C=CC=C2)F)C1)[N+](=O)[O-] | C18H10BrFN4O2
reactant | ethynyltrimethylsilane | 2.42 mmol | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 6.05 mmol | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 0.0242 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.0242 mmol | [Cu]I
product | 6-(2-fluorophenyl)-2-(3-nitro-4-((trimethylsilyl)ethynyl)phenyl)imidazo[1,2-b]pyridazine | 0.425 g, 81% | FC1=C(C=CC=C1)C=1C=CC=2N(N1)C=C(N2)C2=CC(=C(C=C2)C#C[Si](C)(C)C)[N+](=O)[O-] | C23H19FN4O2Si
